US05010088
6-(4-Hydroxypiperidino)carbostyril hydrochloride
6-(4-Hydroxypiperidino)carbostyril, 0.1 g (0.002 mole), was suspended in 15 mL methanol. Five mL ethanolic hydrogen chloride was added and the mixture digested on a steam bath for 15 minutes until part of the methanol had evaporated. After cooling, filtration and washing with ethyl acetate, the resulting white crystals, 0.05 g, were recrystallized by dissolving in warm methanol and adding ethyl acetate. The yield was 0.05 g 6-(4-hydroxypiperidino)carbostyril hydrochloride; m.p. 259°-262° C.

reactant | 6-(4-Hydroxypiperidino)carbostyril | OC1CCN(CC1)C=1C=C2C=CC(NC2=CC1)=O | C14H16N2O2
reactant | hydrogen chloride | Five mL | Cl | ClH
solvent | methanol | 15 mL | CO | CH4O
product | 6-(4-Hydroxypiperidino)carbostyril hydrochloride | Cl.OC1CCN(CC1)C=1C=C2C=CC(NC2=CC1)=O | InChI=1S/C14H16N2O2.ClH/c17-12-5-7-16(8-6-12)11-2-3-13-10(9-11)1-4-14(18)15-13;/h1-4,9,12,17H,5-8H2,(H,15,18);1H
